US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene and ethanolamine were converted to yield 2-{4-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-butylamino}-ethanol as colorless amorphous solid, MS: 424 (MH+).

reactant | 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C(F)(F)F)C)C1 | C20H18BrF3OS
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-{4-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-butylamino}-ethanol | CC1=C(C2=C(S1)C=C(C=C2)OCCCCNCCO)C2=CC=C(C=C2)C(F)(F)F | C22H24F3NO2S
